US07754728B2
2-Chloro-9-(3-methoxycarbonylmethylbenzyl)adenine
2-Chloroadenine (1.70 g, 10.0 mmol) and potassium carbonate (9.67 g, 70.0 mmol) were added to DMF (35 ml) and the mixture was stirred at 60° C. for 1.5 hours. After cooling to room temperature, methyl 3-bromomethylphenylacetate (3.16 g, 13.0 mmol) was added thereto and the mixture was stirred at room temperature for 1.5 hours. After removing the solvent, thereto was added chloroform (50 ml) and the resulting solid was washed with water to give the captioned compound (2.13 g, 6.41 mmol, yield: 64%) as a pale yellow solid.

reactant | 2-Chloroadenine | 10.0 mmol, 1.70 g | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | potassium carbonate | 70.0 mmol, 9.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-bromomethylphenylacetate | 13.0 mmol, 3.16 g | BrCC=1C=C(C=CC1)CC(=O)OC | C10H11BrO2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-9-(3-methoxycarbonylmethylbenzyl)adenine | 6.41 mmol, 2.13 g, yield: 64% | ClC1=NC(=C2N=CN(C2=N1)CC1=CC(=CC=C1)CC(=O)OC)N | C15H14ClN5O2
